US06362177B1
To a mixture of 4-carboxy-1-(4-chlorobenzyl)pyrrolidin-2-one (5.05 g, 20 mmol), EDCI (2.85 g, 22 mmol), HOBt (2.97 g, 22 mmol) and dichloromethane (100 mL) was added 0.5 M ammonia in dioxane (60 mL, 30 mmol). The reaction mixture was stirred at room temperature for 15 h and washed with 2N HCl (3 times) and 2 N NaOH aqueous solution (100 mL×4). The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated to afford 3-carbamoyl-1-(4-chlorobenzyl)pyrrolidin-2-one (1.49 g) as a colorless solid.

reactant | 4-carboxy-1-(4-chlorobenzyl)pyrrolidin-2-one | 20 mmol, 5.05 g | C(=O)(O)C1CC(N(C1)CC1=CC=C(C=C1)Cl)=O | C12H12ClNO3
reactant | EDCI | 22 mmol, 2.85 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 22 mmol, 2.97 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | ammonia | 0.5 M | N | H3N
reactant | dioxane | 30 mmol, 60 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 3-carbamoyl-1-(4-chlorobenzyl)pyrrolidin-2-one | 1.49 g | C(N)(=O)C1C(N(CC1)CC1=CC=C(C=C1)Cl)=O | C12H13ClN2O2
